US04582862
(B2) 2-(4-Chlorophenyl)-3,3-dimethyl-2-methoxyoxirane
57.0 g (1.056 mols) of sodium methylate are dissolved in 360 ml of methanol, and 208.4 g (0.96 mol) of 2-chloro-1-(4-chlorophenyl)-2-methylpropan-1-one are added dropwise to this solution at reflux temperature. The methanol is then removed by distillation. The residue is poured into ice water and the mixture is extracted with diethyl ether. The ether solution is washed with water, dried over Na2SO4 and concentrated. The resulting oil is purified by vacuum distillation.

reactant | sodium methylate | 1.056 mols, 57.0 g | C[O-].[Na+]
reactant | 2-chloro-1-(4-chlorophenyl)-2-methylpropan-1-one | 0.96 mol, 208.4 g | ClC(C(=O)C1=CC=C(C=C1)Cl)(C)C | C10H10Cl2O
solvent | methanol | 360 ml | CO | CH4O
product | 2-(4-Chlorophenyl)-3,3-dimethyl-2-methoxyoxirane | ClC1=CC=C(C=C1)C1(OC1(C)C)OC | C11H13ClO2
